US04701459
Benzoic anhydride (2.26 g, 10 mmol) was added to a stirred suspension of 7-amino-1,3-dihydro-2H-imidazo[4,5-b]quinolin-2-one (1.0 g, 5 mmol) in dimethylformamide (20 mL) and pyridine (0.4 mL). After 1.5 hours, additional benzoic anhydride (1.3 g, 5 mmol), pyridine (0.4 mL) and dimethylformamide (5 mL) were added. The mixture was stirred for 1.5 hours, diluted with water and filtered. The solid was washed with water, dried in vacuo, triturated with hot methanol and crystallized from methanol/dimethylformamide to give N-(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)benzamide as a partial hydrate (1.5 g, 98%), m.p. >300° C.

reactant | Benzoic anhydride | 10 mmol, 2.26 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | 7-amino-1,3-dihydro-2H-imidazo[4,5-b]quinolin-2-one | 5 mmol, 1.0 g | NC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O | C10H8N4O
reactant | benzoic anhydride | 5 mmol, 1.3 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | pyridine | 0.4 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | pyridine | 0.4 mL | N1=CC=CC=C1 | C5H5N
product | N-(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)benzamide | O=C1NC=2C(=NC=3C=CC(=CC3C2)NC(C2=CC=CC=C2)=O)N1 | C17H12N4O2
